US04640703
190.8 g (0.541 mole) of methyl 2-[4-(5-chloro-3-nitropyridin-2-yloxy)phenoxy]propionate are dissolved in 1.9 l of dioxan. 40 g of Raney nickel catalyst are added and hydrogenation is effected with hydrogen at 20°-25° C. The catalyst is then removed by filtration, the solvent is distilled off and the still warm oily residue is crystallised by stirring it in hexane. The crystalline precipitate is isolated by filtration and dried, affording 167.4 g (96% of theory) of methyl 2-[4-(3-amino-5-chloropyridin-2-yloxy)phenoxy]propionate with a melting point of 92°-94° C.

reactant | methyl 2-[4-(5-chloro-3-nitropyridin-2-yloxy)phenoxy]propionate | 0.541 mole, 190.8 g | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)OC)C)C=C1)[N+](=O)[O-] | C15H13ClN2O6
reactant | hydrogen | [H][H] | H2
solvent | dioxan | 1.9 l | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | 40 g | [Ni] | Ni
product | methyl 2-[4-(3-amino-5-chloropyridin-2-yloxy)phenoxy]propionate | 167.4 g, 96% | NC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C15H15ClN2O4
